US09447078B2
CH3CN addition to methyl 4-(cyclohexylmethoxy)pyrimidine-2-carboxylate following the method described in Example 6 gives 3-(4-(cyclohexylmethoxy)pyrimidin-2-yl)-3-oxopropanenitrile.

reactant | methyl 4-(cyclohexylmethoxy)pyrimidine-2-carboxylate | C1(CCCCC1)COC1=NC(=NC=C1)C(=O)OC | C13H18N2O3
reactant | CH3CN | CC#N | C2H3N
product | 3-(4-(cyclohexylmethoxy)pyrimidin-2-yl)-3-oxopropanenitrile | C1(CCCCC1)COC1=NC(=NC=C1)C(CC#N)=O | C14H17N3O2
